US05506242
2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanoic acid hydrochloride (2.41 g, 5.82 mmol), 1-hydroxybenzotriazole (0.786 g, 5.82 mmol), 4-methyl-morpholine (1.9 mL, 17.46 mmol), and O-(4-methoxybenzyl)hydroxylamine (1.78 g, 11.63 mmol) (prepared according to Pol. J. Chem. 55, 1163-1167 (1981)) are dissolved in methylene chloride (55 mL). N-[dimethylaminopropyl]-N'-ethylcarbodiimide hydrochloride (1.45 g, 7.57 mmol) is added, and the reaction is stirred overnight. The reaction is then diluted with water and extracted with methylene chloride. The combined organic extracts are washed with brine, dried (Na2SO4), and the solvent is evaporated. The crude product is purified by silica gel chromatography (ethyl acetate followed by 5% methanol/ethyl acetate) to give N-(4-methoxybenzyloxy)-2(R)-[[4-methoxybenzenesulfonyl]-(3-picolyl)amino]-3-methylbutanamide, m.p. 45°-53° C.

reactant | 2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanoic acid hydrochloride | 5.82 mmol, 2.41 g | Cl.COC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)O)C(C)C)CC=1C=NC=CC1
reactant | 1-hydroxybenzotriazole | 5.82 mmol, 0.786 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-methyl-morpholine | 17.46 mmol, 1.9 mL | CN1CCOCC1 | C5H11NO
reactant | O-(4-methoxybenzyl)hydroxylamine | 11.63 mmol, 1.78 g | COC1=CC=C(CON)C=C1 | C8H11NO2
reactant | N-[dimethylaminopropyl]-N'-ethylcarbodiimide hydrochloride | 7.57 mmol, 1.45 g | Cl.CN(C)CCCN=C=NCC
solvent | methylene chloride | 55 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-(4-methoxybenzyloxy)-2(R)-[[4-methoxybenzenesulfonyl]-(3-picolyl)amino]-3-methylbutanamide | COC1=CC=C(CONC([C@@H](C(C)C)N(CC=2C=NC=CC2)S(=O)(=O)C2=CC=C(C=C2)OC)=O)C=C1 | C26H31N3O6S
